US04963544
A solution of (2S,4R)-2-(imidazol-1-yl)methyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (0.76 g) in dimethylformamide (2 ml) was added to a mixture of thioacetic S-acid (0.16 ml) and sodium hydride (62.8 % in oil suspension, 0.08 g) in dimethylformamide (5 ml) under nitrogen stream and the mixture was heated at 70°-75° C. for 5 hours. The mixture was poured into ice-water (70 ml), extracted with ethyl acetate (70 ml), dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (20 g) and eluted with a mixture of methanol and chloroform (2:98, V/V) to give (2S,4S)-4-acetylthio-2-(imidazol-1-yl)methyl-1-(-4-nitrobenzyloxycarbonyl)pyrrolidine (0.38 g).

reactant | (2S,4R)-2-(imidazol-1-yl)methyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 0.76 g | N1(C=NC=C1)C[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H20N4O7S
reactant | thioacetic S-acid | 0.16 ml | C(C)(=O)S | C2H4OS
reactant | sodium hydride | 0.08 g | [H-].[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-4-acetylthio-2-(imidazol-1-yl)methyl-1-(-4-nitrobenzyloxycarbonyl)pyrrolidine | 0.38 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C=NC=C1 | C18H20N4O5S
